US06271265B1
Synthesis of N-tert-Butyl Naphthalene-2-carboxamide
Following the procedure of Example 1 above and using 2-naphthoyl chloride and tert-butylamine (and ethyl acetate in place of benzene), the title compound was prepared as a white solid, m.p. 154.8-159.2° C.

reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-Butyl Naphthalene-2-carboxamide | C(C)(C)(C)NC(=O)C1=CC2=CC=CC=C2C=C1 | C15H17NO
